US06166203
A mixture of 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine (68 mg, 0.26 mmole), isonipecotamide (66 mg, 0.52 mmole), and sodium acetate (21 mg, 0.26) in 1-methyl-2-pyrrolidone (3 mL) is stirred and heated in an oil bath at 160° C. for 4 hours. The reaction mixture is then cooled and diluted with EtAc (15 mL), transferred to a separatory funnel, and washed with water (3×15 mL). The organic layer is dried over sodium sulfate and concentrated. The residue is recrystalized with ethyl acetate to give 1-(5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-yl)-4-piperidinecarboxamide (55 mg, 60% yield) as a white solid. This material is dissolved in ethyl acetate and HCl saturated ethyl acetate (2 mL) is added. The solution is concentrated to afford the HCl salt as a greasy oil. 1-(5-phenylthieno[3,2-b]pyridin-7-yl)-4-piperidinecarboxamide hydrochloride (compound 3) is precipitated out of an ether solution, collected by filtration, washed with ether, and dried in vacuo to afford the final product. m.p. 303-305° C. (dec).

reactant | 7-chloro-5-(4-fluorophenyl)thieno[3,2-b]pyridine | 0.26 mmole, 68 mg | ClC1=C2C(=NC(=C1)C1=CC=C(C=C1)F)C=CS2 | C13H7ClFNS
reactant | isonipecotamide | 0.52 mmole, 66 mg | N1CCC(C(=O)N)CC1 | C6H12N2O
reactant | sodium acetate | 21 mg | C(C)(=O)[O-].[Na+]
solvent | 1-methyl-2-pyrrolidone | 3 mL | CN1C(CCC1)=O | C5H9NO
product | 1-(5-(4-fluorophenyl)thieno[3,2-b]pyridin-7-yl)-4-piperidinecarboxamide | 55 mg, 60% yield | FC1=CC=C(C=C1)C1=CC(=C2C(=N1)C=CS2)N2CCC(CC2)C(=O)N | C19H18FN3OS
